US07402707B2
6,13-dihydro-6,13-ethenopentacene (5)
A stirred mixture of the hexahydropentacene (221.78 g, 0.720 mol), chloranil (362.6 g, 1.475 mol) and 4 L toluene is kept at reflux for 2½h. The mixture is cooled to about 50° C. and 350 mL 33% sodium hydroxide solution is gradually added. The organic layer is separarted, while the aquous layer is washed with toluene. The combined toluene layers are filtered over aluminium oxide and are rotary evaporated. The residue is stirred with a mixture of 500 mL toluene and heptane. Filtration and washing gives 188.0 g of the product (0.618 mol, 86%). 1H-NMR (CDCl3): δ 5.35 (dd, 2H), 7.05 (dd, 2H), 7.4 (m, 4H), 7.75 (m, 8H).

reactant | hexahydropentacene | 0.720 mol, 221.78 g | C1CCCC2CC3=CC4=CC5=CC=CC=C5C=C4C=C3C=C12 | C22H20
reactant | chloranil | 1.475 mol, 362.6 g | C1(=C(C(=O)C(=C(C1=O)Cl)Cl)Cl)Cl | C6Cl4O2
reactant | sodium hydroxide | 350 mL | [OH-].[Na+]
solvent | toluene | 4 L | C1(=CC=CC=C1)C | C7H8
product | 6,13-dihydro-6,13-ethenopentacene | 0.618 mol, 188.0 g, 86% | C1=CC=C2C=C3C4C=CC(C3=CC2=C1)C5=CC6=CC=CC=C6C=C45 | C24H16
